US07964616B2
A mixture of (1S,3S)-1-[(benzylamino)methyl]-3-methylcyclohexanol (4.5 g) and 5% palladium on carbon (500 mg) in methanol (40 ml) was stirred under a hydrogen atmosphere of 4 bar for 72 hours. The reaction was filtered through celite, washed with methanol (2×) and concentrated in vacuo to afford 1S,3S)-1-(Aminomethyl)-3-methylcyclohexanol as a colourless oil (2.5 g).

reactant | (1S,3S)-1-[(benzylamino)methyl]-3-methylcyclohexanol | 4.5 g | C(C1=CC=CC=C1)NC[C@]1(C[C@H](CCC1)C)O | C15H23NO
catalyst | palladium on carbon | 500 mg | [Pd] | Pd
solvent | methanol | 40 ml | CO | CH4O
product | 1-(Aminomethyl)-3-methylcyclohexanol | 2.5 g | NCC1(CC(CCC1)C)O | C8H17NO
